US04263299
(c) 1-(4-Chlorobenzyl)-4-[2-hydroxy-3-(4-hydroxy-8-n-propylcoumarin-7-yloxy)propyl]piperazine
Hydrogenation of a solution of 1-[3-(8-allyl-4-benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]-4-(4-chlorobenzyl)piperazine (7.2 g) in DMF (200 ml) over 10% palladinized charcoal at atmospheric pressure until two equivalents of hydrogen were absorbed gave 4.85 g (80%) of material of m.p. (aqueous ethanol) 107° C. (Found; C, 63.90; H, 6.59; N, 5.20; Cl, 6.53; C26H31N2O5Cl requires; C, 64.12; H, 6.42; N, 5.75; Cl, 7.28%).

reactant | 1-[3-(8-allyl-4-benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]-4-(4-chlorobenzyl)piperazine | 7.2 g | C(C=C)C=1C(=CC=C2C(=CC(OC12)=O)OCC1=CC=CC=C1)OCC(CN1CCN(CC1)CC1=CC=C(C=C1)Cl)O | C33H35ClN2O5
reactant | charcoal | C | CH4
reactant | hydrogen | two equivalents | [H][H] | H2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(4-Chlorobenzyl)-4-[2-hydroxy-3-(4-hydroxy-8-n-propylcoumarin-7-yloxy)propyl]piperazine | 4.85 g, 80% | ClC1=CC=C(CN2CCN(CC2)CC(COC2=CC=C3C(=CC(OC3=C2CCC)=O)O)O)C=C1 | C26H31ClN2O5
